US07157488B2
4-Methoxytryptamine hydrochloride
Dissolve 4-methoxytryptamine (1 g, 5.26 mmol) in MeOH and add of NH4Cl (0.97 eq, 0.27 g, 5.10 mmol). After 30 minutes, evaporate in vacuo to remove the MeOH leaving a thick orange oil. Dissolve the oil in MeOH and add dropwise to Et2O (200 mL) with vigorous stirring giving a gummy white precipitate. Stir with heating to give the title compound as a solid: 1H NMR (d6-DMSO, 300 MHz): 3.06 (bs, 4 H); 3.86 (s, 3H); 6.46 (dd, 1H); 7.06–6.9 (m, 3H); 7.93 (bs, 1H); 10.9 (s, 1H); MS (ES+): m/z 191 (M+H)+; 175 (M-CH3)+; 174 (M-NH2)+; (ES−): 189 (M−H)−; Analysis for C11H15ClN2O: Calcd.: C, 58.2788; H, 6.6692; N, 12.3566; found C, 58.18; H, 6.73; N, 12.15.

reactant | 4-methoxytryptamine | 5.26 mmol, 1 g | COC=1C=CC=C2NC=C(CCN)C12 | C11H14N2O
reactant | NH4Cl | 5.10 mmol, 0.27 g, 0.97 eq | [NH4+].[Cl-]
solvent | MeOH | CO | CH4O
product | 4-Methoxytryptamine hydrochloride | Cl.COC=1C=CC=C2NC=C(CCN)C12 | InChI=1S/C11H14N2O.ClH/c1-14-10-4-2-3-9-11(10)8(5-6-12)7-13-9;/h2-4,7,13H,5-6,12H2,1H3;1H
